US07342031B2
To 3 g of N,N-dimethylformamide, 300 mg of 5-chloro-3-ethoxymethylthio-1,2,4-thiadiazole and 188 mg of 2,2-dimethyl-1,3-dioxolane-4-methanol were dissolved, and added 62 mg of sodium hydride (60% in oil) at about 0° C., followed by stirring at about 0° C. for 30 minutes and standing at room tempareture for about 1 day. Then, to the reaction mixture, t-butylmethylether and saturated sodium chloride aqueous solution were added, and separeted to two layers. The organic layer was dried by anhydrous sodium salfate, and concentrated. The residue obtaind was subjected to column chromatography to obtain 330 mg of 5-(2,2-dimethyl-1,3-dioxolane-4-yl)methoxy-3-ethoxymethylthio-1,2,4-thiadiazole.

reactant | 5-chloro-3-ethoxymethylthio-1,2,4-thiadiazole | 300 mg | ClC1=NC(=NS1)SCOCC | C5H7ClN2OS2
reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 188 mg | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium hydride | 62 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
solvent | N,N-dimethylformamide | 3 g | CN(C=O)C | C3H7NO
product | 5-(2,2-dimethyl-1,3-dioxolane-4-yl)methoxy-3-ethoxymethylthio-1,2,4-thiadiazole | 330 mg | CC1(OCC(O1)COC1=NC(=NS1)SCOCC)C | C11H18N2O4S2
